US04864021
Preparation of 5'-O-acetyl-3-[3-(4-benzoyloxy-5-chloro-2-pyridyloxycarbonyl)benzoyl]-3'-O-benzyl-2'-deoxy-5-fluorouridine
To a solution of 0.60 g of 5'-O-acetyl-3'-O-benzyl-2'-deoxy-5-fluorouridine in 30 ml of dry dioxane were added 0.42 g of isophthaloyl chloride and 1.11 ml of triethylamine, and the mixture was refluxed for 2 hours. Then 0.60 g of 4-benzoyloxy-5-chloro-2(1H)-pyridone and 1.11 ml of triethylamine were added and the resulting mixture was refluxed for 1 hour. The precipitate thus formed was filtered off, and the filtrate was concentrated. The residue was placed on a silica gel column and eluted with 40% ethyl acetate-benzene, giving 0.45 g of the title compound in a yield of 37%.

reactant | 5'-O-acetyl-3'-O-benzyl-2'-deoxy-5-fluorouridine | 0.60 g | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)OCC1=CC=CC=C1 | C18H19FN2O6
reactant | isophthaloyl chloride | 0.42 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | triethylamine | 1.11 ml | C(C)N(CC)CC | C6H15N
reactant | 4-benzoyloxy-5-chloro-2(1H)-pyridone | 0.60 g | C(C1=CC=CC=C1)(=O)OC1=CC(NC=C1Cl)=O | C12H8ClNO3
reactant | triethylamine | 1.11 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 5'-O-acetyl-3-[3-(4-benzoyloxy-5-chloro-2-pyridyloxycarbonyl)benzoyl]-3'-O-benzyl-2'-deoxy-5-fluorouridine | 0.45 g, yield of 37% | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N(C(=O)C(=C1)F)C(C1=CC(=CC=C1)C(=O)OC1=NC=C(C(=C1)OC(C1=CC=CC=C1)=O)Cl)=O)OCC1=CC=CC=C1 | C38H29ClFN3O11
